US09120757B2
A solution of tert-butyl methyl(2-(methyl((3-(1-(3-methylbutanoyl)piperidin-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate (110 mg, 0.21 mmol, 1.00 equiv) in ethanol (2 mL), 1,4-dioxane (4 mL) and 12N hydrochloric acid (2 mL) was stirred at room temperature overnight. The resulting mixture was concentrated under vacuum and the residue was purified by Pre-HPLC with the following conditions (1#-Pre-HPLC-005 (Waters)): Column, XBridge Shield RP18 OBD Column, 5 μm, 19×150 mm; mobile phase, water with 10 mmol NH4HCO3 and CH3CN (18% CH3CN up to 58% in 10 min, up to 95% in 1 min, down to 18% in 2 min); Detector, UV 254/220 nm to give 17.7 mg (25%) of 3-methyl-1-(4-(4-((methyl (2-(methylamino)ethyl)amino)methyl)-1H-p yrazol-3-yl)piperidin-1-yl)butan-1-one as a colorless solid. 1H-NMR (300 MHz, D2O): δ 7.53 (s, 1H), 4.50-4.40 (m, 1H), 4.10-4.00 (m, 1H), 3.44 (s, 2H), 3.25-3.10 (m, 1H), 3.09-2.95 (m, 1H), 2.80-2.65 (m, 3H), 2.53-2.43 (m, 2H), 2.40-2.20 (m, 5H), 2.13 (s, 3H), 2.00-1.75 (m, 3H), 1.72-1.43 (m, 2H), 0.88 (d, J=6.8 Hz, 6H) ppm. LCMS (method R, ESI): RT=1.26 min, m/z=336.2 [M+H]+.

reactant | tert-butyl methyl(2-(methyl((3-(1-(3-methylbutanoyl)piperidin-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate | 0.21 mmol, 110 mg, 1.00 equiv | CN(C(OC(C)(C)C)=O)CCN(CC=1C(=NN(C1)C1OCCCC1)C1CCN(CC1)C(CC(C)C)=O)C | C28H49N5O4
reactant | water | O | H2O
reactant | CH3CN | CC#N | C2H3N
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 12N, 2 mL | Cl | ClH
product | 3-methyl-1-(4-(4-((methyl (2-(methylamino)ethyl)amino)methyl)-1H-p yrazol-3-yl)piperidin-1-yl)butan-1-one | 17.7 mg, 25% | CC(CC(=O)N1CCC(CC1)C1=NNC=C1CN(CCNC)C)C | C18H33N5O
